US08134001B2
In a manner similar to the method described in example 1d, 5-bromo-2-(2,5-dimethyl-phenoxy)-benzaldehyde (1.6 g, 5 mmol) was reacted with 1,1,3,3,3-hexamethyldisilazane (0.8 g, 5 mmol), n-butyllithium (2.5 M, 2 mL, 5 mmol), trimethylsilyl chloride (0.55 g, 10 mmol), triethylamine (0.7 g, 7 mmol) and acetyl chloride (0.5 g, 7 mmol) to give crude 1-[5-bromo-2-(2,5-dimethyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-bromo-2-(2,5-dimethyl-phenoxy)-benzaldehyde | 5 mmol, 1.6 g | BrC=1C=CC(=C(C=O)C1)OC1=C(C=CC(=C1)C)C | C15H13BrO2
reactant | 1,1,3,3,3-hexamethyldisilazane | 5 mmol, 0.8 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 5 mmol, 2.5 M, 2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10 mmol, 0.55 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 7 mmol, 0.7 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 7 mmol, 0.5 g | C(C)(=O)Cl | C2H3ClO
product | 1-[5-bromo-2-(2,5-dimethyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=C(C=CC(=C1)C)C | C20H24BrNO2Si
